US08664401B2
Step D) (+/−)-4-[4-{4-[3-(4,4-difluoropiperidin-1-yl)propoxy]phenyl}-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide hydrochloride
HCl (4.0 M in 1,4-dioxane, 1.0 mL) was added to a solution of 4-[4-{4-[3-(4,4-difluoropiperidin-1-yl)propoxy]phenyl}-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (209 mg, 0.334 mmol) in 1,4-dioxane/water (1:1, 5 mL). After 10 minutes the reaction was concentrated to give a white solid, the solid was triturated with 2-propanol at 50° C. for 1 h. The title compound was isolated by filtration as a white solid (146 mg, the hydrochloride salt, 75%). LCMS m/z 542.8 (M+1)1H NMR (400 MHz, DMSO-d6) δ ppm 1.57 (s, 3H) 2.22 (br. s., 3H) 2.38 (br. s., 5H) 3.11 (s, 3H) 3.13-3.26 (m, 2H) 3.31 (br. s., 2H) 3.74 (br. s., 3H) 4.14 (t, J=5.76 Hz, 3H) 6.59-6.72 (m, 2H) 7.05 (d, J=8.78 Hz, 2H) 7.63-7.79 (m, 3H) 11.03 (br. s., 1H) 11.18 (br. s., 1H)

reactant | HCl | 4.0 M, 1.0 mL | Cl | ClH
reactant | 4-[4-{4-[3-(4,4-difluoropiperidin-1-yl)propoxy]phenyl}-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.334 mmol, 209 mg | FC1(CCN(CC1)CCCOC1=CC=C(C=C1)C1=CC(N(C=C1)CCC(C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O)F | C30H41F2N3O7S
solvent | 1,4-dioxane water | 5 mL | O1CCOCC1.O
product | (+/−)-4-[4-{4-[3-(4,4-difluoropiperidin-1-yl)propoxy]phenyl}-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide hydrochloride | Cl.FC1(CCN(CC1)CCCOC1=CC=C(C=C1)C1=CC(N(C=C1)CCC(C(=O)NO)(S(=O)(=O)C)C)=O)F | InChI=1S/C25H33F2N3O6S.ClH/c1-24(23(32)28-33,37(2,34)35)9-16-30-13-8-20(18-22(30)31)19-4-6-21(7-5-19)36-17-3-12-29-14-10-25(26,27)11-15-29;/h4-8,13,18,33H,3,9-12,14-17H2,1-2H3,(H,28,32);1H
